US04827004
A solution of 6.40 g of (E,E)-7,11-dimethyl-13-[(tetrahydro-2H-pyran-2-yl)oxy]-7,11-tridecadien-1-yn-4-ol and 1.50 g of pyridinium toluene-4-sulfonate in 200 ml of abs. ethanol is heated to 60° under argon for 2.5 hours. The reaction mixture is cooled and evaporated, and the residue is taken up in ether and water. After separating the organic phase the aqueous phase is extracted twice with ether and the combined organic phases are washed with 2N hydrochloric acid, saturated sodium carbonate solution and saturated sodium chloride solution, dried over sodium sulphate, filtered and evaporated. The yellow oil which remains behind as the residue is chromatographed on 400 g of silica gel, with elution being carried with hexane-ethyl acetate 25%→40%. In this manner there is obtained (E,E)-3,7-dimethyltrideca-2,6-dien-12-yn-1,10-diol as a yellowish oil. IR (film); 3350 (OH); 3305, 2118 (--C≡CH); 1667 (C=C); 1003, (OH). MS: 205 (1, (M--CH 2 OH)+); 203 (1, M--H2O--CH3)+); 105 (100); 93 (100).

reactant | (E,E)-7,11-dimethyl-13-[(tetrahydro-2H-pyran-2-yl)oxy]-7,11-tridecadien-1-yn-4-ol | 6.40 g | C/C(/CCC(CC#C)O)=C\CC\C(=C\COC1OCCCC1)\C | C20H32O3
reactant | pyridinium toluene-4-sulfonate | 1.50 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | ethanol | C(C)O | C2H6O
product | (E,E)-3,7-dimethyltrideca-2,6-dien-12-yn-1,10-diol | C\C(=C/CO)\CC\C=C(\CCC(CC#C)O)/C | C15H24O2
